### PR TITLE
[Merged by Bors] - feat: the largest T2 quotient of a topological space.

### PR DESCRIPTION
**Pull request by PatrickMassot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by PatrickMassot — COMMENTED** [review]
linting

File: Mathlib/Topology/Separation.lean [hunk 1]
```diff
@@ -1435,6 +1436,95 @@ theorem Set.InjOn.exists_isOpen_superset {X Y : Type*} [TopologicalSpace X] [Top
...
+    {f : X → Y} (hf : Continuous f) : letI _ := t2Setoid X
+    ∀ (a b : X), a ≈ b → f a = f b := by
+  intro x y hxy
+  set g : Quotient (Setoid.ker f) → Y := Quotient.lift f (fun _ _ ↦ id)
+  have gcont : Continuous g := hf.quotient_lift (fun _ _ ↦ id)
+  change (Setoid.ker f).Rel x y
+  apply hxy _ (t2Space_iff_disjoint_nhds.mpr _)
+  rintro ⟨x⟩ ⟨x'⟩ (h : Quotient.mk _ x ≠ Quotient.mk _ x')
+  apply Tendsto.disjoint gcont.continuousAt (disjoint_nhds_nhds.mpr _) gcont.continuousAt
+  simpa using h
```
Comment (ADedecker) [inline Mathlib/Topology/Separation.lean:1500]: If you move this after [T2Space.of_injective_continuous](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Separation.html#T2Space.of_injective_continuous) (which I think should be higher anyway) you can do:
```suggestion
  change t2Setoid X ≤ Setoid.ker f
  exact sInf_le <| .of_injective_continuous
    (Setoid.ker_lift_injective _) (hf.quotient_lift fun _ _ ↦ id)
```

File: Mathlib/Topology/Separation.lean [hunk 2]
```diff
@@ -1435,6 +1436,95 @@ theorem Set.InjOn.exists_isOpen_superset {X Y : Type*} [TopologicalSpace X] [Top
...
+/-- The largest T2 quotient of a topological space is indeed T2. -/
+instance : T2Space (t2Quotient X) := by
+  rw [t2Space_iff_disjoint_nhds]
+  rintro ⟨x⟩ ⟨y⟩ (h : ¬  t2Quotient.mk x = t2Quotient.mk y)
+  obtain ⟨s, hs, hsxy⟩ : ∃ s, T2Space (Quotient s) ∧ Quotient.mk s x ≠ Quotient.mk s y := by
+    simpa [t2Quotient.mk_eq] using h
+  have hs' : s ∈ {s | T2Space (Quotient s)} := hs
+  apply Tendsto.disjoint (continuous_map_sInf hs').continuousAt
+    (disjoint_nhds_nhds.mpr _) (continuous_map_sInf hs').continuousAt
+  exact hsxy
```
Comment (ADedecker) [inline Mathlib/Topology/Separation.lean:1488]: If you move this after [separated_by_continuous](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Separation.html#separated_by_continuous) you can do:
```suggestion
  rw [t2Space_iff]
  rintro ⟨x⟩ ⟨y⟩ (h : ¬ t2Quotient.mk x = t2Quotient.mk y)
  obtain ⟨s, hs, hsxy⟩ : ∃ s, T2Space (Quotient s) ∧ Quotient.mk s x ≠ Quotient.mk s y := by
    simpa [t2Quotient.mk_eq] using h
  exact separated_by_continuous (continuous_map_sInf (by exact hs)) hsxy
```

This one is a bit less satisfying to read because the condition on open sets explicitly appear, but is what the API makes easiest.

**Comment by PatrickMassot** [comment]
Thanks a lot @ADedecker. I was misled by the fact that the T_{2.5} section of the file interrupted the T_2 section. In order to make it easier to review the changes, I used one commit to move things around and then one commit using your simplifications.

File: Mathlib/Data/Setoid/Basic.lean [hunk 3]
```diff
@@ -196,6 +196,25 @@ theorem eq_top_iff {s : Setoid α} : s = (⊤ : Setoid α) ↔ ∀ x y : α, s.R
   simp only [Pi.top_apply, Prop.top_eq_true, forall_true_left]
 #align setoid.eq_top_iff Setoid.eq_top_iff
 
+lemma sInf_equiv {S : Set (Setoid α)} {x y : α} :
+    letI := sInf S
+  x ≈ y ↔ ∀ s ∈ S, s.Rel x y := Iff.rfl
```
Comment (ADedecker) [inline Mathlib/Data/Setoid/Basic.lean:201]:
```suggestion
    x ≈ y ↔ ∀ s ∈ S, s.Rel x y := Iff.rfl
```
It looks a bit ugly (maybe it would be better with `Iff.rfl` on the next line) but I think strictly speaking these are our conventions.

File: Mathlib/Topology/Separation.lean [hunk 4]
```diff
@@ -1639,6 +1597,87 @@ instance Sigma.t2Space {ι} {X : ι → Type*} [∀ i, TopologicalSpace (X i)] [
...
+
+/-- The largest T2 quotient of a topological space. This construction is left-adjoint to the
+inclusion of T2 spaces into all topological spaces. -/
+def t2Quotient := Quotient (t2Setoid X)
+
+namespace t2Quotient
+variable {X}
+
+instance : TopologicalSpace (t2Quotient X) :=
+inferInstanceAs <| TopologicalSpace (Quotient _)
```
Comment (ADedecker) [inline Mathlib/Topology/Separation.lean:1614]:
```suggestion
  inferInstanceAs <| TopologicalSpace (Quotient _)
```

File: Mathlib/Topology/Separation.lean [hunk 5]
```diff
@@ -1639,6 +1597,87 @@ instance Sigma.t2Space {ι} {X : ι → Type*} [∀ i, TopologicalSpace (X i)] [
...
+
+/-- The map from a topological space to its largest T2 quotient. -/
+def mk : X → t2Quotient X := Quotient.mk (t2Setoid X)
+
+lemma mk_eq {x y : X} : mk x = mk y ↔ ∀ s : Setoid X, T2Space (Quotient s) → s.Rel x y :=
+Setoid.quotient_mk_sInf_eq
```
Comment (ADedecker) [inline Mathlib/Topology/Separation.lean:1620]:
```suggestion
  Setoid.quotient_mk_sInf_eq
```

File: Mathlib/Topology/Separation.lean [hunk 6]
```diff
@@ -1639,6 +1597,87 @@ instance Sigma.t2Space {ι} {X : ι → Type*} [∀ i, TopologicalSpace (X i)] [
...
+
+variable (X)
+
+lemma surjective_mk : Surjective (mk : X → t2Quotient X) := surjective_quotient_mk _
+
+lemma continuous_mk : Continuous (mk : X → t2Quotient X) :=
+continuous_quotient_mk'
```
Comment (ADedecker) [inline Mathlib/Topology/Separation.lean:1627]:
```suggestion
  continuous_quotient_mk'
```

File: Mathlib/Topology/Separation.lean [hunk 7]
```diff
@@ -1639,6 +1597,87 @@ instance Sigma.t2Space {ι} {X : ι → Type*} [∀ i, TopologicalSpace (X i)] [
...
+variable {X}
+
+@[elab_as_elim]
+protected lemma inductionOn {motive : t2Quotient X → Prop} (q : t2Quotient X)
+    (h : ∀ x, motive (t2Quotient.mk x)) : motive q := Quotient.inductionOn q h
+
+@[elab_as_elim]
+protected lemma inductionOn₂ [TopologicalSpace Y] {motive : t2Quotient X → t2Quotient Y → Prop}
+    (q : t2Quotient X) (q' : t2Quotient Y) (h : ∀ x y, motive (mk x) (mk y)) : motive q q' :=
+Quotient.inductionOn₂ q q' h
```
Comment (ADedecker) [inline Mathlib/Topology/Separation.lean:1638]:
```suggestion
  Quotient.inductionOn₂ q q' h
```

File: Mathlib/Topology/Separation.lean [hunk 8]
```diff
@@ -1639,6 +1597,87 @@ instance Sigma.t2Space {ι} {X : ι → Type*} [∀ i, TopologicalSpace (X i)] [
...
+  Quotient.lift f (t2Quotient.compatible hf)
+
+lemma continuous_lift {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y] [T2Space Y]
+    {f : X → Y} (hf : Continuous f) : Continuous (t2Quotient.lift hf) :=
+  continuous_coinduced_dom.mpr hf
+
+@[simp]
+lemma lift_mk {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y] [T2Space Y]
+    {f : X → Y} (hf : Continuous f) (x : X) : lift hf (mk x) = f x :=
+Quotient.lift_mk (s := t2Setoid X) f (t2Quotient.compatible hf) x
```
Comment (ADedecker) [inline Mathlib/Topology/Separation.lean:1670]:
```suggestion
  Quotient.lift_mk (s := t2Setoid X) f (t2Quotient.compatible hf) x
```

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

**Comment by PatrickMassot** [comment]
bors merge
